US07696229B2
1. Synthesis of 1-phenylpyrrolidin-2-one
Into a 150 mL sealed tube purged and maintained with an atmosphere of nitrogen, was placed 1-bromobenzene (4 g, 25.48 mmol). To this was added pyrrolidin-2-one (2.18 g, 25.65 mmol). Addition of Pd(OAc)2 (57 mg, 0.25 mmol) was next. This was followed by the addition of BINAP (240 mg, 0.39 mmol). This was followed by the addition of Cs2CO3 (12.5 g, 38.34=mol). To the mixture was added toluene (50 mL). The resulting solution was allowed to react, with stirring, overnight while the temperature was maintained at 120° C. in a bath of oil. The mixture was concentrated by evaporation under vacuum using a rotary evaporator. The residue was purified by eluting through a column with a 1:10 ethyl acetate/petroleum ether solvent system. This resulted in 1 g (24%) of 1-phenylpyrrolidin-2-one as yellow oil.

reactant | 1-bromobenzene | 25.48 mmol, 4 g | BrC1=CC=CC=C1 | C6H5Br
reactant | pyrrolidin-2-one | 25.65 mmol, 2.18 g | N1C(CCC1)=O | C4H7NO
reactant | BINAP | 0.39 mmol, 240 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Cs2CO3 | 12.5 g | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd(OAc)2 | 0.25 mmol, 57 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 1-phenylpyrrolidin-2-one | C1(=CC=CC=C1)N1C(CCC1)=O | C10H11NO
